2119-07-23 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2119-7-22**] 09:16 AM
 EKG - At [**2119-7-22**] 10:30 AM
 BLOOD CULTURED - At [**2119-7-22**] 12:00 PM
   LSC HD line
   - sinus tachy: IVFx2 lt and oxycodone for joint pain x2 doses
   - Received Tylenol and Oxycodone overnight for HA
   - Continues to complain of headache this morning
   Allergies:
   Sulfamethizole
   Rash;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   LFT abnormality
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine
   pt is allergiec
   Vancomycin
   Hives; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-7-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 118 (102 - 121) bpm
   BP: 89/41(53) {86/35(48) - 115/68(79)} mmHg
   RR: 26 (6 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  6,146 mL
                                                                  1,073 mL
   PO:
             TF:
   IVF:
                                                                  4,146 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,146 mL
                                                                  1,073 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, no acute distress
   Neuro: CN 2-12 intact, Kerrigs and Brudzinski intact
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: HD line intact without erythrema or exudate, AVF thrombectomy
   site clean.
   Labs / Radiology
   208 K/uL
   8.3 g/dL
   83 mg/dL
   8.5 mg/dL
   21 mEq/L
   4.3 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   28.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2119-7-22**]  04:53 PM
                             [**2119-7-23**]  04:32 AM
   WBC
   6.9
   5.6
   Hct
   29.4
   28.5
   Plt
   217
   208
   Cr
   8.2
   8.5
   Glucose
   81
   83
   Other labs: PT / PTT / INR:14.7/34.5/1.3, ALT / AST:[**3-10**], Alk Phos / T
   Bili:52/, LDH:183 IU/L, Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   24 year old woman with Lupus and ESRD on HD (MWF) presents with fever
   after dialysis.
   # Fever, tachycardia, relative leukocytosis and hypotension: Initially
   thought to be SIRS with likely sepsis, however blood cultures have been
   negative and N/V has resolved.  More likely [**1-2**] inflammatory rx in
   setting of SLE.  She has a low-grade temp and SBP is back to normal
   range of 90-100 with IVFs.  CT head and sinus were negative
   - Consider imagine left arm U/S to evaluate for clot
   - Consider TTE to r/o culture-negative endocarditis
   - Start Prednisone 20 mg daily
   - Consider Rheum C/S tomorrow
   - Continue empiric dapto and gent
   - follow bcx; IJ line cx
   # Sinus tachycardia: driven by decreased circulatory volume vs pain vs
   infection/inflammation. Improved with IVF and pain mngmt.
   - monitor, prn IVF/analgesia
   - d/w renal re antiinflamatory agents
   # HA: She continues to have HA this morning, but it is improved from
   yesterday.  CT head/sinus negative.  No meningeal finidings on exam. MS
   intact.  (Meningitis was considered but felt it was unlikely beause:
   intermittent nature of fever, absence of meningeal signs or mental
   status change, associated findings of nausea and vomiting are not new
   for pt).
   - Continue Oxycodone and Tylenol prn for pain
   - Start Prednisone today
   - if AMS or worsened HA or recurrent fever or worsening WBcs consider
   LP although already on abx.
   # ESRD on HD (MWF): Cre 8.2. Likely [**1-2**] SLE but equivocal biopsy as
   noted above. On transplant list.
   - continue HD
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], C3, C4
   # SLE: associated with leukoppenia, arthritis, s/p pericardial
   effusion. Off immunosuppressants for three months.
   - Start Prednisone 20 mg daily
   - C/S Rheum tomorrow
   ICU Care
   Nutrition: Regular diet, IVFs
   Glycemic Control:  HISS
   Lines:
   Dialysis Catheter - [**2119-7-22**] 09:16 AM
   16 Gauge - [**2119-7-22**] 09:50 AM
   18 Gauge - [**2119-7-22**] 09:50 AM
   Prophylaxis:
   DVT: HISS
   Stress ulcer:  PPI while on steroids
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2119-07-23 09:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2119-7-22**] 09:16 AM
 EKG - At [**2119-7-22**] 10:30 AM
 BLOOD CULTURED - At [**2119-7-22**] 12:00 PM
   LSC HD line
   Intermittent tachycardia, BP 90s-105 overnight
   CT head and sinuses - within normal
   BC taken from tunnelled line and periph
   Tm 100.3
   Received tylenol and oxycodone for joint pains and h/a
   Allergies:
   Sulfamethizole
   Rash;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   LFT abnormality
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine
   pt is allergiec
   Vancomycin
   Hives; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-7-23**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 118 (102 - 121) bpm
   BP: 89/41(53) {86/35(48) - 115/68(79)} mmHg
   RR: 26 (6 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  6,146 mL
                                                                  1,086 mL
   PO:
             TF:
   IVF:
                                                                  4,146 mL
                                                                  1,086 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,146 mL
                                                                  1,086 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   208 K/uL
   83 mg/dL
   8.5 mg/dL
   21 mEq/L
   4.3 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   28.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2119-7-22**]  04:53 PM
                             [**2119-7-23**]  04:32 AM
   WBC
   6.9
   5.6
   Hct
   29.4
   28.5
   Plt
   217
   208
   Cr
   8.2
   8.5
   Glucose
   81
   83
   Other labs: PT / PTT / INR:14.7/34.5/1.3, ALT / AST:[**3-10**], Alk Phos / T
   Bili:52/, LDH:183 IU/L, Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:4.2 mg/dL,
   C3 and C4 pending
   Imaging: CT head and sinuses - wnl
   Microbiology: 3 sets of BC - NGTD
   Assessment and Plan
 HEADACHE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   24 yr old with lupus, ESKD on HD via tunneled catheter, fever, emesis,
   headach vs lightheadedness and presented with tachycardia,
   leukocytosis/left shift and hypotension with SBP in 80s. Suspect
   SIRS/sepsis with no obvious source of infection though left arm
   thrombus remains possible. Gastroenteritis, line sepsis less likely.
   Meningitis being considered though had mild headache that resolves with
   tylenol and no physical signs of meningitis. High index of suspicion
   that her Lupus is active considering that these episodes of fever
   appear to have started following discontinuing prednisone. C3/C4
   pending. Will empirically start pred 20 mg daily.
   Hypotension has improved back to baseline. She is immunosuppressed with
   underlying SLE with no steroids or antiinflammatories x 3 months.
   Continue broad spectrum Abx and f/u on multiple blood cultures. Send
   stool for cdiff and culture. Will ultrasound left arm tomorrow looking
   again for abscess. Hold off on TEE for now. Will likely involve
   rheumatology tomorrow.
   Agree with remainder of plan per Dr. [**Last Name (STitle) 9629**]
s note.
   ICU Care
   Nutrition: full diet
   Glycemic Control:  Humalog insulin sliding scale
   Dialysis Catheter - [**2119-7-22**] 09:16 AM
   16 Gauge - [**2119-7-22**] 09:50 AM
   18 Gauge - [**2119-7-22**] 09:50 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes, Patient is critically ill

2119-07-24 09:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2119-7-23**] 03:58 PM
   LUE
   - Blood cultures: NGTD
   - U/S Left arm showed thrombus in previously known location
   - Started Prednisone 20 mg daily and HISS
   - Plan to call Rheum C/S in am
   Allergies:
   Sulfamethizole
   Rash;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   LFT abnormality
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine
   pt is allergiec
   Vancomycin
   Hives; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-7-23**] 09:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-7-24**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 91 (82 - 132) bpm
   BP: 130/86(95) {97/44(58) - 130/86(95)} mmHg
   RR: 26 (12 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 68.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,588 mL
                  PO:
                  TF:
   IVF:
                                                                  1,588 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,588 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, no acute distress
   Neuro: CN 2-12 intact, Kerrigs and Brudzinski intact
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: HD line intact without erythrema or exudate, AVF thrombectomy
   site clean.
   Labs / Radiology
   212 K/uL
   8.7 g/dL
   99 mg/dL
   10.6 mg/dL
   21 mEq/L
   5.6 mEq/L
   37 mg/dL
   105 mEq/L
   137 mEq/L
   29.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2119-7-22**]  04:53 PM
                             [**2119-7-23**]  04:32 AM
                             [**2119-7-24**]  05:50 AM
   WBC
   6.9
   5.6
   8.3
   Hct
   29.4
   28.5
   29.4
   Plt
   [**Telephone/Fax (3) 10073**]
   Cr
   8.2
   8.5
   10.6
   Glucose
   81
   83
   99
   Other labs: PT / PTT / INR:14.7/34.5/1.3, ALT / AST:[**3-10**], Alk Phos / T
   Bili:52/, LDH:183 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   24 year old woman with Lupus and ESRD on HD (MWF) presents with fever
   after dialysis.
   # Fever, tachycardia, relative leukocytosis and hypotension: Initially
   thought to be SIRS with likely sepsis, however blood cultures have been
   negative and N/V has resolved.  More likely [**1-2**] inflammatory rx in
   setting of SLE.  She has a low-grade temp and SBP is back to normal
   range of 90-100 with IVFs.  CT head and sinus were negative
   - Consider imagine left arm U/S to evaluate for clot
   - Consider TTE to r/o culture-negative endocarditis
   - Start Prednisone 20 mg daily
   - Consider Rheum C/S tomorrow
   - Continue empiric dapto and gent
   - follow bcx; IJ line cx
   # Sinus tachycardia: driven by decreased circulatory volume vs pain vs
   infection/inflammation. Improved with IVF and pain mngmt.
   - monitor, prn IVF/analgesia
   - d/w renal re antiinflamatory agents
   # HA: She continues to have HA this morning, but it is improved from
   yesterday.  CT head/sinus negative.  No meningeal finidings on exam. MS
   intact.  (Meningitis was considered but felt it was unlikely beause:
   intermittent nature of fever, absence of meningeal signs or mental
   status change, associated findings of nausea and vomiting are not new
   for pt).
   - Continue Oxycodone and Tylenol prn for pain
   - Start Prednisone today
   - if AMS or worsened HA or recurrent fever or worsening WBcs consider
   LP although already on abx.
   # ESRD on HD (MWF): Cre 8.2. Likely [**1-2**] SLE but equivocal biopsy as
   noted above. On transplant list.
   - continue HD
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], C3, C4
   # SLE: associated with leukoppenia, arthritis, s/p pericardial
   effusion. Off immunosuppressants for three months.
   - Start Prednisone 20 mg daily
   - C/S Rheum tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-7-22**] 09:16 AM
   16 Gauge - [**2119-7-22**] 09:50 AM
   18 Gauge - [**2119-7-22**] 09:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-07-24 12:51:00 Physician Attending Progress Note
Chief Complaint: fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24F with SLE and ESRD on HD (MWF) presents with fever after dialysis,
   with presumed infected fistula. Of note, pt has a recent history of
   recurrent fevers.
   24 Hour Events:
 ULTRASOUND - At [**2119-7-23**] 03:58 PM LUE
   -u/s confirms thrombosis
   -rheum consult pending
   -started on prednisone
   -some resp distress with fluids, now HD started
   Allergies:
   Sulfamethizole
   Rash;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   LFT abnormality
   Penicillins - Rash;
   Sulfa (Sulfonamides) - Unknown;
   Iodine - pt is allergiec
   Vancomycin - Hives; Rash;
   Other ICU medications:
   Morphine Sulfate - [**2119-7-23**] 09:25 PM
   Other medications:
   sqh -- refusing, gent, riss, pred 20 daily, pantopr 40 po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-7-24**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 84 (82 - 114) bpm
   BP: 131/81(92) {105/56(67) - 150/89(98)} mmHg
   RR: 21 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 68.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,588 mL
                  PO:
                  TF:
   IVF:
                                                                  1,588 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,588 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   212 K/uL
   99 mg/dL
   10.6 mg/dL
   21 mEq/L
   5.6 mEq/L
   37 mg/dL
   105 mEq/L
   137 mEq/L
   29.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2119-7-22**]  04:53 PM
                             [**2119-7-23**]  04:32 AM
                             [**2119-7-24**]  05:50 AM
   WBC
   6.9
   5.6
   8.3
   Hct
   29.4
   28.5
   29.4
   Plt
   [**Telephone/Fax (3) 10073**]
   Cr
   8.2
   8.5
   10.6
   Glucose
   81
   83
   99
   Other labs: PT / PTT / INR:14.7/34.5/1.3, ALT / AST:[**3-10**], Alk Phos / T
   Bili:52/, LDH:183 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 HEADACHE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   24F with SLE and ESRD on HD (MWF) presents with fever after dialysis,
   with presumed infected fistula. Of note, pt has a recent history of
   recurrent fever that resolved with steroids. Since admission, she has
   been on abx, and yesterday was started on steroids. Her bp and temps
   have been normal. The etiology of the fevers and transient hypotension
   is concerning for sirs/sepsis, although no source has been identified.
   Will wait to hear from rheumatology whether SLE flare could explain the
   presenting symptoms.
   Although the final diagnosis remains unclear, pt does appear
   significantly better today. She is stable to go the floor with ongoing
   work-up of her recent acute on subacute symptoms. Appreciate rheum
   recs. Will add dsDNA and CH50, add Ca/vit D.
   ICU Care
   Nutrition: Glycemic Control:  Blood sugar well controlled
   Lines:  Dialysis Catheter - [**2119-7-22**] 09:16 AM
   16 Gauge - [**2119-7-22**] 09:50 AM
   18 Gauge - [**2119-7-22**] 09:50 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None, ambulates, and declining sqh)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code,  Disposition :Transfer to floor
   Total time spent: 35 minutes